simulator lang=spectre
library gpdk090
section dio
// 
//  *************************************************************
//                       MODEL OF N+/PW DIODE                   *
//                                                              *
//  *************************************************************
//                                                                              
//   
inline subckt gpdk090_ndio (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.259e-07  
  r1 (1 3) resistor r=rs/area tc1=0.00277  
  diode (3 2) gpdk090_ndio_D area=area pj=pj 
ends gpdk090_ndio 
model gpdk090_ndio_D diode level=1 is=1e-05 n=1.3 bv=10.1 ibv=0.05  
+ ns=1.3 nz=1.3 imax=1e40 minr=1e-10 allow_scaling=1
+ isw=1.85e-11 cj=0.001376 vj=0.7956 mj=0.4528 cjsw=2.06e-10 vjsw=0.7956 mjsw=0.2323 
+ tlev=1 eg=1.17 xti=3 tbv1=0.000888 tlevc=1 cta=0.0009067 ctp=0.0002781 
+ pta=0.001427 ptp =0.001427 tnom=25 fc=0    
//                                                                              
//                                   *                                          
//                                      
//  *************************************************************
//                       MODEL OF P+/NW DIODE                   *
//                                                              *
//  *************************************************************
//                                                                              
//   
inline subckt gpdk090_pdio (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.101e-07  
  r1 (1 3) resistor r=rs/area tc1=0.00289  
  diode (3 2) gpdk090_pdio_D area=area pj=pj 
ends gpdk090_pdio 
model gpdk090_pdio_D diode level=1 is=8e-07 n=1.17 bv=8.6 ibv=0.02  
+ ns=1.17 nz=1.17 imax=1e40 minr=1e-10 allow_scaling=1
+ isw=1.055e-12 cj=0.001369 vj=0.9 mj=0.4234 cjsw=9.8e-11 vjsw=0.9 mjsw=0.1716 
+ tlev=1 eg=1.17 xti=3 tbv1=0.000845 tlevc=1 cta=0.000887 ctp=0.000298 
+ pta=0.001643 ptp =0.001643 tnom=25 fc=0    
//  
//  *************************************************************
//                       MODEL OF NW/PSUB DIODE                 *
//                                                              *
//  *************************************************************
//  
inline subckt gpdk090_nwdio (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.26e-07  
  r1 (1 3) resistor r=rs/area tc1=0.00204  
  diode (3 2) gpdk090_nwdio_D area=area pj=pj 
ends gpdk090_nwdio 
model gpdk090_nwdio_D diode level=1 is=5.7e-06 n=1.25 bv=14.38 ibv=0.01 
+ ns=1.25 nz=1.25 imax=1e40 minr=1e-10 allow_scaling=1
+  isw=2.04e-11 cj=0.0001291 vj=0.8122 mj=0.4897 cjsw=5.35e-10 vjsw=0.8122 
+ mjsw=0.2822 tlev=1 eg=1.17 xti=3 tbv1=0.00088 tlevc=1 cta=0.002483 
+ ctp=0.001238 pta=0.003184 ptp =0.003184 tnom=25 fc=0    
//                                                                              
//                                                                              
//     
endsection dio
section dio_hvt
// 
//  *************************************************************
//                       MODEL OF N+/PW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_ndio_hvt (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.259e-7  
  r1 (1 3) resistor r=rs/area tc1=2.77e-3  
  diode (3 2) xdio_hvt area=area pj=pj 
ends gpdk090_ndio_hvt 
model xdio_hvt diode level=1 is=1.5e-5 n=1.26 bv=8.9 ibv=0.03 
+ ns=1.26 nz=1.26 imax=1e40 minr=1e-10 allow_scaling=1
+ isw=1.85e-11   cj=1.590799e-3 vj=0.8578199 mj=0.4774564 
+ cjsw=2.023103e-10 vjsw=0.8578199 mjsw=0.2551013 tlev=1 eg=1.17 xti=3 tbv1=8.88e-4 
+ tlevc=1 cta=7.251995e-4 ctp=3.603971e-4 pta=1.168276e-3 ptp =1.168276e-3 
+ tnom=25 fc=0  
// 
//  *************************************************************
//                       MODEL OF P+/NW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_pdio_hvt (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.101e-7  
  r1 (1 3) resistor r=rs/area tc1=2.89e-3  
  diode (3 2) ydio_hvt area=area pj=pj 
ends gpdk090_pdio_hvt 
model ydio_hvt diode level=1 is=8e-7 n=1.13 bv=8.2 ibv=0.03 
+ ns=1.13 nz=1.13 imax=1e40 minr=1e-10 allow_scaling=1
+ isw=1.055e-12   cj=1.469162e-3 vj=0.8465904 mj=0.4107588 
+ cjsw=9.358381e-11 vjsw=0.8465904 mjsw=0.1813912 tlev=1 eg=1.17 xti=3 tbv1=8.45e-4 
+ tlevc=1 cta=8.024992e-4 ctp=4.114948e-4 pta=1.514677e-3 ptp =1.514677e-3 
+ tnom=25 fc=0  
// 
endsection dio_hvt
section dio_na
// 
//  *************************************************************
//                       MODEL OF N+/PW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_ndio_na (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=3.02e-7  
  r1 (1 3) resistor r=rs/area tc1=2.65e-3  
  diode (3 2) xdio_na area=area pj=pj 
ends gpdk090_ndio_na 
model xdio_na diode level=1 is=2.81e-6 n=1.13 bv=13.8 ibv=0.03 
+ ns=1.13 nz=1.13 imax=1e40 minr=1e-10 allow_scaling=1
+  isw=6.95e-12   cj=1.238858e-4 vj=0.6660649 mj=0.4596073 
+ cjsw=1.726958e-10 vjsw=0.6660649 mjsw=1e-4 tlev=1 eg=1.17 xti=3 tbv1=1.4e-3 
+ tlevc=1 cta=3.449993e-3 ctp=1.348721e-3 pta=2.69401e-3 ptp =2.69401e-3 tnom=25 
+ fc=0  
// 
endsection dio_na
section dio_25
// 
//  *************************************************************
//                       MODEL OF N+/PW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_ndio_25 (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.217e-7  
  r1 (1 3) resistor r=rs/area tc1=2.77e-3  
  diode (3 2) gpdk090_ndio_25_D area=area pj=pj 
ends gpdk090_ndio_25 
model gpdk090_ndio_25_D diode level=1 is=5.03e-10  n=0.91 bv=12.26 ibv=0.03 
+ ns=0.91 nz=0.91 imax=1e40 minr=1e-10 allow_scaling=1
+ isw=1.8e-12 cj=9.68e-4  mj=0.3193271 fc=0 cjsw=9.5e-11  mjsw=0.01 
+ tlevc=1 tlev=1 xti=3 eg=1.17 vjsw=0.7249372 vj=0.7249372 pta=1.816363e-3 
+ tnom=25 ptp =1.816363e-3  tbv1=5.3e-4 cta=1.010853e-3 ctp=9.297595e-5 
// 
//  *************************************************************
//                       MODEL OF P+/NW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_pdio_25 (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=1.194868e-7  
  r1 (1 3) resistor r=rs/area tc1=2.89e-3  
  diode (3 2) gpdk090_pdio_25_D area=area pj=pj 
ends gpdk090_pdio_25 
model gpdk090_pdio_25_D diode level=1 is=5.00e-10  n=0.91 bv=10.18 
+ ns=0.91 nz=0.91 imax=1e40 minr=1e-10 allow_scaling=1
+ ibv=0.03 isw=1.36e-12 cj=1.247e-3  mj=0.3952264 fc=0 cjsw=7.7e-11  
+ mjsw=0.0450429 tlevc=1 tlev=1 xti=3 eg=1.17 vjsw=0.854899 vj=0.854899 pta=1.603538e-3 
+ tnom=25 ptp =1.603538e-3  tbv1=5.1e-4 cta=9.016089e-4 ctp=1.793034e-4 
// 
endsection dio_25
section dio_na25
// 
//  *************************************************************
//                       MODEL OF N+/PW DIODE                   *
//                                                              *
//  *************************************************************
// 
inline subckt gpdk090_ndio_na25 (1 2) 
parameters area=7.5e-8 pj=1.1e-3 rs=3.02e-7  
  r1 (1 3) resistor r=rs/area tc1=2.65e-3  
  diode (3 2) xdio_na25 area=area pj=pj 
ends gpdk090_ndio_na25 
model xdio_na25 diode level=1 is=2.81e-6 n=1.13 bv=13.8 ibv=0.03 
+ ns=1.13 nz=1.13 imax=1e40 minr=1e-10 allow_scaling=1
+  isw=6.95e-12   cj=1.238858e-4 vj=0.6660649 mj=0.4596073 
+ cjsw=1.726958e-10 vjsw=0.6660649 mjsw=1e-4 tlev=1 eg=1.17 xti=3 tbv1=1.4e-3 
+ tlevc=1 cta=3.449993e-3 ctp=1.348721e-3 pta=2.69401e-3 ptp =2.69401e-3 tnom=25 
+ fc=0  
// 
endsection dio_na25
endlibrary gpdk090
